US04960832
The azodicarboxylate resin (4.0 g of 0.28 meq./g, ~1.1 meq) was swollen in dry THF (150 ml) for ~15 minutes. A solution of Ph3P (0.295 g, 1.1 mmol) phthalimide (0.170 g, 1.1 mmol) and benzyl alcohol (0.119 g, 1.1 mmol) in the THF (7 ml) was added dropwise and the mixture was stirred at 25° C. for 23 hours. The resin, which had turned from orange to white color, was filtered off and washed with THF (2×100 ml) and Et2O (2×100 ml). The filtrate and washing were concentrated under vacuum and purified by preparative TLC in benzene to give N-benzylphthalimide (0.149 g, 60% yield).

reactant | azodicarboxylate | 4.0 g, ~1.1 meq | N(=NC(=O)[O-])C(=O)[O-]
reactant | Ph3P | 1.1 mmol, 0.295 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | benzyl alcohol | 1.1 mmol, 0.119 g | C(C1=CC=CC=C1)O | C7H8O
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 7 ml | C1CCOC1 | C4H8O
product | N-benzylphthalimide | 0.149 g, 60% yield | C(C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C15H11NO2
